US20010003749A1
To a stirred solution of 1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)propyl]piperazine (0.11 g, 0.20 mmol) in methylene chloride (10 mL) at −78° C. under nitrogen was added Dibal-H™ solution (0.89 mmol). The mixture was stirred at −78° C. for 1 hour and then slowly warmed to room temperature for 16 hours. Workup followed by purification by flash chromatography gave pure 1-(2-methoxyphenyl)-4-[4-(cyclohexyl)-4-(hydroxy)-3-(phenyl)butyl]piperazine (0.086 g) in 78% yield. The oxalate salt was prepared as described above.

reactant | 1-(2-methoxyphenyl)-4-[3-(cyclohexanecarbonyl)-3-(phenyl)propyl]piperazine | 0.20 mmol, 0.11 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C1=CC=CC=C1)C(=O)C1CCCCC1 | C27H36N2O2
reactant | Dibal-H | CC(C)C[Al]CC(C)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-methoxyphenyl)-4-[4-(cyclohexyl)-4-(hydroxy)-3-(phenyl)butyl]piperazine | 0.086 g, 78% yield | COC1=C(C=CC=C1)N1CCN(CC1)CCC(C(O)C1CCCCC1)C1=CC=CC=C1 | C27H38N2O2
